US08022062B2
Degas a stirred solution of 6-(4-bromothiophen-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (183 mg, 0.37 mmol), zinc cyanide (50 mg, 0.42 mmol) and tetrakistriphenylphosphine palladium(0) (30 mg, 0.026 mmol) in dry DMF. Purge with dry nitrogen, and heat at 120° C. for 6 h. Dilute with water, extract three times with EtOAc, dry over anhydrous MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (10:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(4-cyanothiophen-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (85 mg, 52%). MS (APCI+) m/z: 335 (M+H−Boc)+. Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (APCI+) m/z: 335 (M+H)+.

reactant | 6-(4-bromothiophen-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.37 mmol, 183 mg | BrC=1C=C(SC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C20H23BrClNO2S2
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.42 mmol, 50 mg | [C-]#N.[Zn+2].[C-]#N
product | 3-tert-butoxycarbonyl-7-chloro-6-(4-cyanothiophen-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 85 mg, 52% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2SC=C(C2)C#N | C21H23ClN2O2S2
